US03989701
3-Propionylamino-4-morpholino-benzophenone HCl
A solution of 10.2 g. of propionyl chloride in 50 ml. of acetone is added dropwise, at room temperature to a stirred solution of 28 g. of 3-amino-4-morpholino-benzophenone in 560 ml. of acetone. After the addition the reaction mixture is stirred for additional 30 minutes at room temperature. The separated crystalline 3-pripionyl-amino-4-morpholino-benzophenone hydrochloride is filtered off, and washed with ether. 34 g. of the aimed compound are obtained; m.p.: 152°-153° C.

reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 3-amino-4-morpholino-benzophenone | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCOCC1 | C17H18N2O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-Propionylamino-4-morpholino-benzophenone HCl | Cl.C(CC)(=O)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCOCC1 | InChI=1S/C20H22N2O3.ClH/c1-2-19(23)21-17-14-16(20(24)15-6-4-3-5-7-15)8-9-18(17)22-10-12-25-13-11-22;/h3-9,14H,2,10-13H2,1H3,(H,21,23);1H
